US08207164B2
b) 5-Bromo-pyridine-2-carboxylic acid [3-(5-amino-3-methyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide hydrochloride
A solution of (5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (44.4 mg, 0.1 mmol) in dichloromethane was treated with 4M HCl in dioxane (40 eq). The mixture was warmed to 40° C. for 10 h and then evaporated under reduced pressure to yield the title compound (hydrochloride salt) in the form of a colourless solid. 1H-NMR (500 MHz, DMSO-d6): 10.70 (s, 1H), 10.62 (s, 1H), 9.14 (s, 1H), 8.87 (d, 1H), 8.52 (s, 1H), 8.34 (dd, 1H), 8.11 (d, 1H), 7.96 (m, 2H), 7.43 (t, 1H), 7.21 (d, 1H), 4.59 (s, 2H), 3.88 (m, 2H), 1.65 (s, 3H); MS: 389 [(M+H)+].

reactant | (5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.1 mmol, 44.4 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)=O | C22H25BrN4O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 40 eq | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Bromo-pyridine-2-carboxylic acid [3-(5-amino-3-methyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide hydrochloride | Cl.NC1=NC(COC1)(C)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)Br | InChI=1S/C17H17BrN4O2.ClH/c1-17(10-24-9-15(19)22-17)11-3-2-4-13(7-11)21-16(23)14-6-5-12(18)8-20-14;/h2-8H,9-10H2,1H3,(H2,19,22)(H,21,23);1H
